US09227973B2
Step B: (5R,6S,9R and 5S,6R,9S)-6-(2,3-Difluorophenyl)-5-fluoro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol
Pyridine hydrofluoride (0.037 g, 0.38 mmol) was added dropwise to a solution of (5R,6S,9R and 5S,6R,9S)-6-(2,3-difluorophenyl)-5-fluoro-9-((triisopropylsilyl)oxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine (0.155 g, 0.345 mmol) in tetrahydrofuran (3 mL) cooled to 0° C., and the mixture was stirred for 3 h. The reaction mixture was partitioned between saturated aqueous sodium bicarbonate solution and ethyl acetate (3×). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by flash chromatography on silica gel, eluting with 55% dichloromethane in petroleum ether to give the title compound as a racemic mixture. MS: m/z=294.2 (M+1).

reactant | Pyridine hydrofluoride | 0.38 mmol, 0.037 g | F.N1=CC=CC=C1
reactant | 6-(2,3-difluorophenyl)-5-fluoro-9-((triisopropylsilyl)oxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine | 0.345 mmol, 0.155 g | FC1=C(C=CC=C1F)C1C(C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C)F | C25H34F3NOSi
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 6-(2,3-Difluorophenyl)-5-fluoro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | FC1=C(C=CC=C1F)C1C(C=2C(=NC=CC2)C(CC1)O)F | C16H14F3NO
